Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
LLQ abdominal cramping, concerning for sigmoid colitis
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ F w/ h/o diverticulosis who presents as a 
transfer from ___ with LLQ abdominal cramping and BRBPR. 
Of note, pt had large meal yesterday afternoon and then 
developed LLQ abd cramping (___) that radiated across her lower 
abdomen. She reports having one normal brown soft bowel movement 
followed by 2 episodes of bloody/mucous diarrhea last night and 
brief, intermittent episodes of LLQ abd pain (~30 seconds) every 
hour. She denies fevers/chills, N/V, or recent travel. She 
presented to her PCP in the morning who referred her to ___ 
___. 

At ___, her CT abd/pelvis with Oral and IV Contrast showed 
segmental sigmoid colitis, possibly concerning for ischemic 
colitis, and diverticulosis w/ no evidence of diverticulitis. Pt 
received ceftriaxone/flagyl at ___ and ___ remained 
hemodynamically stable since transfer to ___.  
 
Past Medical History:
PMH:
- HTN 
- Hypercholesterolemia 
- Squamous cell carcinoma (face) 
- Osteoporosis 
- Polyp and diverticulosis of colon (colonoscopy ___ yr ago)

PSH: 
Tonsillectomy ___ yo) 
R ovarian cyst removal (___)
 
Social History:
___
Family History:
Mother and brother with diverticulitis; father with perforated 
ulcer. 
 
Physical Exam:
Admission:
========
Temp  98.4  HR 83  BP  150/68  RR 18  O2 sat 98% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended. Moderate LLQ and suprapubic tenderness 
w/o guarding or rebound tenderness, no hepatosplenomegaly.
Ext: No ___ edema, ___ warm and well perfused

Discharge:
========
Temp  98.8   67   156 / 87   18   97 RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontenderness w/o guarding or rebound 
tenderness, no hepatosplenomegaly.
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
Admission:
========
___ 04:13PM BLOOD WBC-10.0 RBC-4.09 Hgb-12.1 Hct-37.1 
MCV-91 MCH-29.6 MCHC-32.6 RDW-13.2 RDWSD-43.9 Plt ___
___ 04:13PM BLOOD Glucose-109* UreaN-12 Creat-0.7 Na-141 
K-3.6 Cl-103 HCO3-23 AnGap-15
___ 04:13PM BLOOD CRP-8.1*

Discharge:
========
___ 04:56AM BLOOD WBC-6.1 RBC-3.67* Hgb-11.1* Hct-33.4* 
MCV-91 MCH-30.2 MCHC-33.2 RDW-12.9 RDWSD-42.8 Plt ___
 
Brief Hospital Course:
Ms. ___ was admitted to ___ 
on ___ from the emergency department for left lower quadrant 
abdominal cramping, which was concerning for sigmoid colitis. 
She was made NPO and given IVF. GI was consulted on ___ and 
they recommended sending stool cultures and a sample to test for 
C. difficile toxin. They also performed a flexible sigmoidoscopy 
on ___ to visualize the sigmoid, but saw no signs of 
colitis. After the procedure the patient's diet was advanced to 
clears, which she tolerated well. On ___, the patient was 
deemed medically stable for discharge home. 

At the time of discharge the patient was tolerating a regular 
diet, voiding without issue, ambulating without assistance, was 
endorsing minimal pain that did not require pain medications. 
The patient was provided with the appropriate discharge and 
follow up instructions prior to leaving the hospital.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Simvastatin 20 mg PO DAILY 
4. ClonazePAM 0.25 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 10 Days 
Take medication thru ___. 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
12 hours Disp #*14 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H Duration: 10 Days 
Take medication thru ___. 
RX *metronidazole 500 mg 1 tablet(s) by mouth every 8 hours Disp 
#*21 Tablet Refills:*0 
4.  ClonazePAM 0.25 mg PO QHS  
5.  Hydrochlorothiazide 12.5 mg PO DAILY  
6.  Lisinopril 10 mg PO DAILY  
7.  Simvastatin 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
LLQ abdominal cramping and BRBPR with CT findings concerning for
segmental descending colonic-proximal sigmoid colitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ from 
the Emergency Department after being transferred from ___ 
with LLQ abdominal cramping, concerning for sigmoid colitis. GI 
performed a flexible sigmoidoscopy on ___, which was normal, 
and today you have been deem medically cleared for discharge 
home. Please read the following instructions to assist with a 
successful recovery.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
=========================
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

 
*Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.
*Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.
*Please follow up with your primary care physician within the 
next ___ weeks for a post-hospital stay appointment. 

Please call the Acute Care Surgery clinic in ___ days to follow 
up with the results of the stool cultures that were taken while 
you were an inpatient at ___. Additionally, please call the 
clinic any questions regarding your stay. The phone number is 
___.

Thank you for allowing us to participate in your care.

Sincerely,

Your ___ Team
 
Followup Instructions:
___